US06458817B1
tert-butyl 4-nitrophenethylcarbamate
To a cold suspension of 4-nitrophenethylamine hydrochloride (20.0 g, 98.7 mmol) in chloroform (200 mL) was added triethylamine (9.99 g, 98.7 mmol). This solution was treated with di-t-butyldicarbonate (23.70 g, 108.6 mmol) portionwise. After 15 minutes the ice/water bath was removed and the reaction was stirred at room temperature overnight. The reaction mixture was successively washed with the following: water (1×), 0.5M hydrochloric acid (2×), dilute aqueous sodium bicarbonate (1×), brine (1×). The organic phase was dried (Na2SO4), filtered, evaporated, and flash chromatographed (silica gel, 33% ethyl acetate/hexane) to afford 24.2 g of the title compound as a light yellow solid.

reactant | 4-nitrophenethylamine hydrochloride | 98.7 mmol, 20.0 g | Cl.[N+](=O)([O-])C1=CC=C(CCN)C=C1
reactant | triethylamine | 98.7 mmol, 9.99 g | C(C)N(CC)CC | C6H15N
reactant | di-t-butyldicarbonate | 108.6 mmol, 23.70 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 4-nitrophenethylcarbamate | 24.2 g | [N+](=O)([O-])C1=CC=C(CCNC(OC(C)(C)C)=O)C=C1 | C13H18N2O4
